US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-bromopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (250 mg) is dissolved in toluene (2 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (6.9 mg), sodium tert-butoxide (54.8 mg), 2-(di-tert-butylphosphino)biphenyl (9.0 mg) and pyrrolidine (47 μl). The mixture is stirred at room temperature for 45 minutes under nitrogen flow, then heated to 80° C, and stirred for 18 hours. After cooling to room temperature, ether is added to the reaction solution. The mixture is filtered, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=9:1→7:3) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(pyrrolidin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (158.5 mg). MS (m/z): 653 [M+H]+.

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-bromopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 250 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)Br)CC | C27H26BrF6N5O3
reactant | sodium tert-butoxide | 54.8 mg | CC(C)([O-])C.[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 9.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | pyrrolidine | 47 μl | N1CCCC1 | C4H9N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 6.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ether | CCOCC | C4H10O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(pyrrolidin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 158.5 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCCC1)CC | C31H34F6N6O3
